US08026257B2
tert-Butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate.
To a solution of tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (0.16 g, 0.517 mmol) and 7-(bromomethyl)-5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole (0.212 g, 0.517 mmol) in dimethylformamide (6 mL) at 0° C. was added sodium hydride (60% in mineral oil, 0.027 g, 0.672 mmol). The resulting solution was stirred at 0° C. for 30 min. The reaction was quenched by the cautious addition of saturated ammonium chloride and diluted with diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (12% EtOAc/Hex) gave 280 mg (85%) as an oil. 1H-NMR (CDCl3, 500 MHz) δ 8.16 (s, 1H), 8.10 (s, 1H), 7.51 (s, 1H), 7.24 (m, 2H), 6.98 (m, 2H), 5.58 (s, 2H), 4.86 (s, 2H), 3.78 (m, 2H), 3.55 (s, 2H), 3.52 (m, 2H), 3.11 (m, 2H), 2.19 (m, 2H), 1.87 (m, 2H), 1.53 (s, 9H), 0.89 (m, 2H), 0.00 (s, 9H); 13C-NMR (CDCl3, 126 MHz) δ 162.3, 160.3, 155.0, 139.2, 138.4, 134.8, 128.63, 128.57, 125.7, 124.8, 124.6 (q, J=272 Hz), 123.5 (q, J=32 Hz), 121.9, 119.3 (q, J=3.8 Hz), 115.2, 115.0, 79.5, 79.2, 78.7, 70.5, 66.2, 41.1, 40.0 (br), 32.3, 28.5, 17.8, −1.4. Mass spec.: 638.12 (MH)+.

reactant | tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 0.517 mmol, 0.16 g | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | 7-(bromomethyl)-5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazole | 0.517 mmol, 0.212 g | BrCC=1C=C(C=C2C=NN(C12)COCC[Si](C)(C)C)C(F)(F)F | C15H20BrF3N2OSi
reactant | sodium hydride | 0.672 mmol, 0.027 g | [H-].[Na+]
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(4-fluorophenyl)-4-(((5-(trifluoromethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC=1C=C(C=C2C=NN(C12)COCC[Si](C)(C)C)C(F)(F)F | C32H43F4N3O4Si
